US05821246
Using an analogous procedure to that described in Example 1, 6-acetoxy-4-chloroquinazoline hydrochloride was reacted with 4-amino-2-chlorobenzophenone to give 6-acetoxy-4-(4-benzoyl-3-chloroanilino)quinazoline hydrochloride salt in 47% yield, m.p. >250° C.;

reactant | 6-acetoxy-4-chloroquinazoline hydrochloride | Cl.C(C)(=O)OC=1C=C2C(=NC=NC2=CC1)Cl
reactant | 4-amino-2-chlorobenzophenone | NC1=CC(=C(C(=O)C2=CC=CC=C2)C=C1)Cl | C13H10ClNO
product | 6-acetoxy-4-(4-benzoyl-3-chloroanilino)quinazoline hydrochloride salt | 47% yield | Cl.C(C)(=O)OC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)C(C1=CC=CC=C1)=O)Cl | InChI=1S/C23H16ClN3O3.ClH/c1-14(28)30-17-8-10-21-19(12-17)23(26-13-25-21)27-16-7-9-18(20(24)11-16)22(29)15-5-3-2-4-6-15;/h2-13H,1H3,(H,25,26,27);1H
